US08791267B2
Synthesis of C-[5-(3′-Chloro-6-difluoromethoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-methylamine (P-596).
In a 40 mL vial equipped with a stir bar was placed 5-(3′-Chloro-6-difluoromethoxy-biphenyl-3-ylmethyl)-pyridine-2-carbonitrile (I-148, 860 mg, 2.32 mmol), methanol (20 mL) concentrated HCl (967 uL, 11.6 mmol) and 10% Pd/C. The reaction is allowed to stir at ambient temperature for 6 hours under a hydrogen atmosphere. After filtering the mixture through Celite, the filtrate is concentrated, diluted with 0.5M HCl (20 mL) and water (20 mL) followed by extractions with ethyl acetate (2×50 mL). The organic portions were combined, dried (MgSO4), concentrated and purified by silica gel column chromatography utilizing 10% 1M NH3 in MeOH/dichloromethane as the eluent to produce 121 mg of P-596 as a pale yellow solid in 14% yield.

reactant | 5-(3′-Chloro-6-difluoromethoxy-biphenyl-3-ylmethyl)-pyridine-2-carbonitrile | 2.32 mmol, 860 mg | ClC=1C=C(C=CC1)C1=CC(=CC=C1OC(F)F)CC=1C=CC(=NC1)C#N | C20H13ClF2N2O
reactant | methanol | 11.6 mmol, 20 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | C-[5-(3′-Chloro-6-difluoromethoxy-biphenyl-3-ylmethyl)-pyridin-2-yl]-methylamine | 14% yield | ClC=1C=C(C=CC1)C1=CC(=CC=C1OC(F)F)CC=1C=CC(=NC1)CN | C20H17ClF2N2O
